US06825180B2
To the crude (R)-3-(5-acetoxyhexyl)-1,7-dimethyl-5-(N-methylamino)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione was added a solution of potassium hydroxide (100 mg) in 20% water-methanol (2 ml). After stirring at room temperature for 1 hour, the mixture was concentrated under reduced pressure to remove methanol. The aqueous mixture was extracted with ethyl acetate (10 ml). The extract was dried over sodium sulfate and the residue was purified by short column chromatography eluting with ethyl acetate to provide (R)-1,7-dimethyl-3-(5-hydroxyhexyl)-5-(N-methylamino)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione 15 mg, 76% yield for 2 steps) as an oil. 1H NMR (300 MHz, benzene d6) δ 0.98 (d, 3H), 1.25-1.50 (m, 4H), 1.70-1.82 (m, 2H), 2.18 (d, 3H), 2.27 (s, 3H), 3.49-3.58 (m, 1H), 3.60 (s, 3H), 4.11 (t, 2H), 5.70 (s, 1H), 9.09 (broad s, 1H).

reactant | (R)-3-(5-acetoxyhexyl)-1,7-dimethyl-5-(N-methylamino)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(=CC(=N2)C)NC)C)=O)C | C18H26N4O4
reactant | potassium hydroxide | 100 mg | [OH-].[K+]
solvent | water methanol | 2 ml | O.CO
product | (R)-1,7-dimethyl-3-(5-hydroxyhexyl)-5-(N-methylamino)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 15 mg, 76% yield | CN1C(N(C(C2=C1N=C(C=C2NC)C)=O)CCCC[C@@H](C)O)=O | C16H24N4O3
